US04560693
6. 6,6,7-Trifluoro-6,7-dihydro-2-[(5-methyl-2-pyridyl)methylsulfinyl]-1H-[1,4]-dioxino[2,3-f]benzimidazole
2.4 ml of 2M sodium hydroxide solution and 0.8 ml of water are added to a solution of 1.75 g of 6,6,7-trifluoro-6,7-dihydro-2-[(5-methyl-2-pyridyl)methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole in 18 ml of dioxane. A mixture of 4.6 ml of sodium hypochlorite solution (8.9 g of active chlorine per ml) and 2.9 ml of 2M sodium hydroxide solution is added to the above solution at 30° C. in the course of 15 min. The mixture is stirred at 30° C. for 50 min., some drops of 2M sodium dithionite solution are added and the solution is concentrated in vacuo. 100 ml of water and 20 ml of ethyl acetate are added to the residue, and the title compound (1.6 g, 87% yield of m.p. 186°-187° C.) is precipitated by addition of sodium dihydrogen phosphate solution up to pH 7.

reactant | sodium hydroxide | 2M, 2.4 ml | [OH-].[Na+]
reactant | 6,6,7-trifluoro-6,7-dihydro-2-[(5-methyl-2-pyridyl)methylthio]-1H-[1,4]-dioxino[2,3-f]benzimidazole | 1.75 g | FC1(C(OC=2C(=CC3=C(NC(=N3)SCC3=NC=C(C=C3)C)C2)O1)F)F | C16H12F3N3O2S
reactant | sodium hypochlorite | 4.6 ml, 8.9 g | Cl[O-].[Na+]
reactant | sodium hydroxide | 2M, 2.9 ml | [OH-].[Na+]
reactant | sodium dithionite | 2M | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.8 ml | O | H2O
product | 6,6,7-Trifluoro-6,7-dihydro-2-[(5-methyl-2-pyridyl)methylsulfinyl]-1H-[1,4]-dioxino[2,3-f]benzimidazole | 1.6 g, 87% yield | FC1(C(OC=2C(=CC3=C(NC(=N3)S(=O)CC3=NC=C(C=C3)C)C2)O1)F)F | C16H12F3N3O3S
